US07812022B2
Step B: 1-Ethynyl-3-nitrobenzene
A solution of 1-(3-nitrophenyl)-2-trimethylsilylacetylene (43 g, 0.197 mol) in diethylether (800 mL) is cooled to 0° C. under argon atmosphere. To this solution is added, dropwise over 30 min, a solution of TBAF (1M in THF, 217 mL, 0.217 mol) maintaining temperature below 10° C. The reaction mixture is stirred for 30 min at 0° C. The reaction mixture is poured into water and extracted with diethyl ether (×2). The organic layers are combined, washed with brine, and dried (Na2SO4). The solvents are removed under reduced pressure. The residue is purified by silica-gel chromatography with Hexane/EtOAc=20/1 to give orange oil (26 g).

reactant | 1-(3-nitrophenyl)-2-trimethylsilylacetylene | 0.197 mol, 43 g | [N+](=O)([O-])C=1C=C(C=CC1)C#C[Si](C)(C)C | C11H13NO2Si
reactant | TBAF | 0.217 mol, 1M, 217 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | diethylether | 800 mL | C(C)OCC | C4H10O
product | 1-Ethynyl-3-nitrobenzene | 26 g | C(#C)C1=CC(=CC=C1)[N+](=O)[O-] | C8H5NO2
